US05689004
3,5-Diamino-4'-phenylethynylbenzophenone
To a 1 L Erlenmeyer flask equipped with a magnetic stirrer was charged 3,5-dinitro-4'-phenylethynylbenzophenone (19.6 g, 0.053 mol) and 1,4-dioxane (450 mL). The orange solution was cooled to ~10°-15° C. by means of an ice bath. A cooled solution (~10° C.) of stannous chloride dihydrate (78.4 g, 0.35 mol) in concentrated hydrochloric acid (300 mL) was added dropwise while maintaining the temperature between 10°-20° C. After the addition, the ice bath was removed and the reaction mixture allowed to warm to room temperature. The mixture was stirred at room temperature for ~16 h. During this time the product precipitated from solution. The solid was collected, placed in distilled water and neutralized with aqueous ammonium hydroxide. The crude material was collected by filtration, washed in water and dried at 65° C. for 1 h in flowing air to afford 16.0 g (98%) of a crude solid. The crude product was recrystallized form toluene to afford 13.1 g (80%) of a yellow powder, mp (DSC, 10° C./min) 156° C. Anal. calcd. for C21H16N2O: C, 80.74%; H, 5.16%; N, 8.97%; Found: C, 80.73%; H, 5.10%; N 8.98%.

reactant | 3,5-dinitro-4'-phenylethynylbenzophenone | 0.053 mol, 19.6 g | [N+](=O)([O-])C=1C=C(C(=O)C2=CC=C(C=C2)C#CC2=CC=CC=C2)C=C(C1)[N+](=O)[O-] | C21H12N2O5
reactant | 1,4-dioxane | 450 mL | O1CCOCC1 | C4H8O2
solvent | hydrochloric acid | 300 mL | Cl | ClH
product | 3,5-Diamino-4'-phenylethynylbenzophenone | 13.1 g, 80% | NC=1C=C(C(=O)C2=CC=C(C=C2)C#CC2=CC=CC=C2)C=C(C1)N | C21H16N2O
